US06329370B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-4-morpholin-4-ylmethyl-phthalazine (Compound 56)
A suspension under N2 of [4-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-1-yl]-methanol (1.25 g, 3.6 mmoles), prepared as described in example 103, in CH2Cl2 (30 ml) was added with triethylamine (0.75 ml, 5.4 mmoles). The mixture was cooled to 0-4° C. and dropwise added with methanesulfonyl chloride (0.33 ml, 4.32 mmoles) in CH2Cl2 (5 ml). At the end of the addition the resultant solution was stirred for 1 hour at room temperature, then cooled and added with morpholine (0.94 ml, 10.8 mmoles). The mixture was stirred at room temperature for 3 hours, then poured into 5% HCl. The acidic phase was alkalinised and twice extracted with CH2Cl2, then discoloured with charcoal, filtered over celite and dried to give a foam which was flash chromatographed (eluent: CH2Cl2/CH3OH 98:2). The yielded foam was triturated in ethyl ether to give 1.1 g of the title compound (yield: 52%). m.p.: 202.6-205.6° C.

reactant | [4-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-1-yl]-methanol | 3.6 mmoles, 1.25 g | ClC=1C=NC=C(C1CC1=NN=C(C2=CC=C(C=C12)OC)CO)Cl | C16H13Cl2N3O2
reactant | triethylamine | 5.4 mmoles, 0.75 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.32 mmoles, 0.33 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | morpholine | 10.8 mmoles, 0.94 ml | N1CCOCC1 | C4H9NO
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-4-morpholin-4-ylmethyl-phthalazine | 1.1 g, yield: 52% | ClC=1C=NC=C(C1CC1=NN=C(C2=CC(=CC=C12)OC)CN1CCOCC1)Cl | C20H20Cl2N4O2
